US05807866
(e) (3R)-(-)-3-(3-Bromophenyl)-3-(7-benzyloxyindolin-1-yl)propan-1-ol
A 1.0M solution of borane-tetrahydrofuran complex (BH3 --THF) in tetrahydrofuran (38.1 ml, 38.10 mmol) was added dropwise to a magnetically stirred solution of (1R)-(-)-7-benzyloxy-1-[1-(3-bromophenyl)prop-2-enyl]indoline (16.0 g, 38.1 mmol) in dry tetrahydrofuran (200 ml) under nitrogen at 0° C. The reaction mixture was heated under reflux for 8.5 h, during which time two further aliquots of 1.0M BH3 --THF in tetrahydrofuran were added (1×15.0 ml and 1×5.0 ml) until TLC inspection indicated that no further starting olefin remained. The reaction mixture was cooled to 0° C., sequentially treated with water (21.0 ml), 3M sodium hydroxide solution (21 ml) and 30% hydrogen peroxide (21.0 ml) then stirred at room temperature for 16 h. Quenched with brine (400 ml), extracted with ethyl acetate (3×200 ml), the combined organic phases were washed with brine (200 ml), dried (Na2SO4) and evaporated to yield a brown oil. Column chromatography (ethyl acetate--light petroleum (b.p. 40°-60° C.), 1:4) gave the title compound as a pink oil (11.70 g, 70%). [α]D25 -280° (c=0.011 gml-1, CHCl3); νmax (thin film)/cm-1 3391 (br. OH), 3063, 3031, 2939, 1591; δH (270 MHz) 1.89 (1H, m, 1×2-H); 2.26 (1H, m, 1×2-H); 2.69 (2H, m, indoline 2×2-H); 3.13 (1H, m, indoline 1×3-H); 3.30 (1H, bs, 1-OH); 3.43 (1H, m, indoline 1×3-H); 3.81 (2H, m, 2×1-H); 5.17 (2H, s, CH2Ph); 5.59 (1H, dd, 3-H, 3J3,2 =11.2 Hz, 3J3,2' =4.0 Hz); 6.77 (3H, m, indoline 4-H, 5-H, 6-H); 7.06 (2H, m, 5'-H,6'-H); 7.31-7.51 (7H, ArH). δC (67.8 MHz) 29.1 (2-C); 32.7 (indoline 2-C); 45.6 (indoline 3-C); 58.2 (1-C); 61.7 (3-C); 70.9 (CH2Ph); 112.2 (indoline 6-C); 118.1 (indoline 5-C); 120.6 (indoline 4-C); 122.3 (3'-C); 133.4 (indoline 3a-C); 136.7 (1'-C); 139.0 (benzyl ipso-C); 142.4 (indoline 7a-C); 145.7 (indoline 7-C). The remaining signals lie between 126.5-130.7 ppm and cannot be assigned with any certainty; m/z 439.1, 437.1 (2.69, 3.32, M+), 394.2, 392.2 (1.06, 1.09), 348.1, 346.1 (5.33, 5.60), 225.1 (18.26), 172.0, 170.0 (33.75, 34.31), 134.0 (100), 118.0 (2.79), 91.1 (67.26).

reactant | borane tetrahydrofuran | B.O1CCCC1
reactant | (1R)-(-)-7-benzyloxy-1-[1-(3-bromophenyl)prop-2-enyl]indoline | 38.1 mmol, 16.0 g | C(C1=CC=CC=C1)OC=1C=CC=C2CCN(C12)[C@H](C=C)C1=CC(=CC=C1)Br | C24H22BrNO
reactant | sodium hydroxide | 3M, 21 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 21.0 ml | OO | H2O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 38.10 mmol, 38.1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 21.0 ml | O | H2O
product | (3R)-(-)-3-(3-Bromophenyl)-3-(7-benzyloxyindolin-1-yl)propan-1-ol | 11.70 g, 70% | BrC=1C=C(C=CC1)[C@@H](CCO)N1CCC2=CC=CC(=C12)OCC1=CC=CC=C1 | C24H24BrNO2
